US06498251B1
6,7-Dihydroxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline monohydrobromide (510 mg, 2.9 mol) was dissolved in water (5 ml) and dioxane (5 ml), and the solution was mixed with sodium bicarbonate (410 mg, 4.9 mmol) and t-butyl bicarbonate (470 mg, 2.2 mmol) and stirred at room temperature for 2.5 hours. Ethyl acetate was added to the reaction solution, and the organic layer was washed with dilute hydrochloric acid and saturated brine and then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure and the thus obtained material was dried under a reduced pressure to obtain crude 2-t-butoxycarbonyl-6,7-dihydroxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline (610 mg). Crude 2-t-butoxycarbonyl-6,7-dihydroxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline (610 mg) was dissolved in anhydrous N,N-dimethylformamide (6 ml), and the solution was mixed with sodium hydride (60%, 170 mg, 4.1 mmol) and stirred at room temperature for 45 minutes. The reaction solution was mixed with methyl iodide (580 mg, 4.1 mmol) and again stirred for 1 hour. The reaction solution was mixed with ethyl acetate, washed with water and saturated brined and dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 190 mg (0. 62 mmol, 32% in yield) of the title compound.

reactant | 6,7-Dihydroxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline monohydrobromide | 2.9 mol, 510 mg | Br.OC=1C=C2CCNC(C2=CC1O)C
reactant | sodium bicarbonate | 4.9 mmol, 410 mg | C([O-])(O)=O.[Na+]
reactant | t-butyl bicarbonate | 2.2 mmol, 470 mg | C(OC(C)(C)C)(O)=O | C5H10O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-t-butoxycarbonyl-6,7-dihydroxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline | 610 mg | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)O)O)C | C15H21NO4
